US08242104B2
Step 3: 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-methoxy-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene
A solution of 2-[2-(4-chloro-6-methoxy-pyridin-3-yl)-4-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-imidazol-1-yl]-ethanol (7.52 g, 20.7 mmol) in DMF (100 mL) was cooled to 0° C. and treated with sodium hydride (804 mg, 20.1 mmol), the reaction mixture stirred at 0° C. for 10 min then allowed to warm to RT and stirred for 72 h. Further sodium hydride (150 mg) was added and stirring continued until no starting material remained before removal of solvent in vacuo. The residue was dissolved in ethyl acetate and the resultant solution washed three times with saturated brine then dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was triturated in pentane/diethyl ether (5:1) to give the title compound as a brown solid (5.38 g, 79%). LCMS RT=2.86, [M+H]+=327. 1H NMR 400 MHz (CDCl3) δ: 9.35 (1H, s), 7.87 (1H, s), 7.63 (1H, s), 6.37 (1H, s), 6.03-6.02 (1H, m), 4.54-4.53 (2H, m), 4.53-4.33 (2H, m), 3.99 (3H, s), 1.57 (6H, d, J=6.63 Hz).

reactant | 2-[2-(4-chloro-6-methoxy-pyridin-3-yl)-4-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-imidazol-1-yl]-ethanol | 20.7 mmol, 7.52 g | ClC1=C(C=NC(=C1)OC)C=1N(C=C(N1)C=1N(N=CN1)C(C)C)CCO | C16H19ClN6O2
reactant | sodium hydride | 20.1 mmol, 804 mg | [H-].[Na+]
reactant | sodium hydride | 150 mg | [H-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-methoxy-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene | 5.38 g, 79% | C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=NC(=C3)OC | C16H18N6O2
